US07919506B2
Preparation 15: N-(2-Bromo-4-methyl-5-(trifluoromethyl) benzyl)-N-(3,5-bis(trifluoromethyl) benzyl)-2-methyl-2H-tetrazol-5-amine
To a solution of N-(2-bromo-4-methyl-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine (76 mg, 0.135 mmol) in anhydrous THF (5 mL) was added sodium carbonate (28 mg, 0.270 mmol) and N,N-dimethylformamide (1 mL) followed by dimethyl sulfate (34 mg. 0.270 mmol). The solution was heated to 70° C. for 18 hours then the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate (20 mL) and water (10 mL). The aqueous layer was extracted with ethyl acetate (3×20 mL) and the combined organics were washed with water (3×20 mL). The combined organics were dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (76 mg, 97.5%). 1H NMR (400 MHz, CDCl3) δ 7.71 (s, 1H) 7.62 (s, 2H) 7.44(s, 1H) 7.40(s, 1H) 4.79(s, 2H) 4.76(s, 2H) 4.20(s, 3H) 2.39(s, 3H). LC-MS calc. 576 found 577 (M+H)

reactant | N-(2-bromo-4-methyl-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine | 0.135 mmol, 76 mg | BrC1=C(CN(C=2N=NNN2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C(=C1)C)C(F)(F)F | C19H13BrF9N5
reactant | sodium carbonate | 0.270 mmol, 28 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | dimethyl sulfate | 0.270 mmol, 34 mg | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-Bromo-4-methyl-5-(trifluoromethyl) benzyl)-N-(3,5-bis(trifluoromethyl) benzyl)-2-methyl-2H-tetrazol-5-amine | 76 mg, 97.5% | BrC1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C(=C1)C)C(F)(F)F | C20H15BrF9N5
